US05911912
27.0 g of trans/trans-[5-(4-pentylcyclohexyl)-1,3-dioxan-2-yl]methanol are firstly esterified using formic acid as described in Example 1 and then treated with dibromodifluoromethane. Conventional work-up gives trans/trans-2-(2,2-difluorovinyloxymethyl)-5-(4-pentylcyclohexyl)-1,3-dioxane.

reactant | trans-[5-(4-pentylcyclohexyl)-1,3-dioxan-2-yl]methanol | C(CCCC)C1CCC(CC1)[C@H]1CO[C@@H](OC1)CO | C16H30O3
reactant | dibromodifluoromethane | BrC(F)(F)Br | CBr2F2
reactant | formic acid | C(=O)O | CH2O2
product | trans-2-(2,2-difluorovinyloxymethyl)-5-(4-pentylcyclohexyl)-1,3-dioxane | FC(=COC[C@@H]1OC[C@H](CO1)C1CCC(CC1)CCCCC)F | C18H30F2O3
